US09422240B2
3-[(2-Ethoxy2-oxoethyl)amino]-3-oxopropanoic acid
To a solution of Meldrum's acid (10.0 g) in acetonitrile (231 mL), glycine ethyl hydrochloride (14.5 g) and triethylamine (14.1 g) were added and the mixture was stirred at 60° C. for 5 hours. After cooling the mixture to room temperature, ethyl acetate was added and extraction was conducted with a saturated aqueous solution of sodium hydrogencarbonate. To the combined aqueous layers, 1 mol/L hydrochloric acid was added and extraction was conducted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate. After removing the desiccant by filtration, the filtrate was concentrated under reduced pressure to give the titled compound as a colorless solid (7.95 g).

reactant | Meldrum's acid | 10.0 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | glycine ethyl hydrochloride | 14.5 g | C(C)Cl.NCC(=O)O
reactant | triethylamine | 14.1 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 231 mL | C(C)#N | C2H3N
product | 3-[(2-Ethoxy2-oxoethyl)amino]-3-oxopropanoic acid | 7.95 g | C(C)OC(CNC(CC(=O)O)=O)=O | C7H11NO5
